US04585866
A solution of 3,5-dimethylaniline (36.3 g; 0.3 mole) in glacial acetic acid (200 ml) is treated with methanesulfonic acid (60 g) and the stirred mixture cooled to 0°-5° C. in an ice-salt bath. An ice cold solution of sodium nitrate (21 g in 80 ml H2O) is slowly added over a half hour period and this diazonium solution then added quickly to an ice cold solution of cuprous chloride [from copper sulphate 5 H2O (125 g), sodium chloride (32.5 g) and sodium sulphate (71 g)] in concentrated hydrochloric acid (160 ml). The mixture becomes very thick and is allowed to warm to room temperature. The stirring is continued overnight and the solution heated to 60° C. for 1/2 hour. Concentrated ammonia is added with cooling until the solution is alkaline and the oil extracted with ether. Distillation of the dried ether extract gives 5-chloro-m-xylene, b.p. 70°-73°/12 mm (25.6 g).

reactant | 3,5-dimethylaniline | 0.3 mole, 36.3 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | methanesulfonic acid | 60 g | CS(=O)(=O)O | CH4O3S
reactant | sodium nitrate | 80 ml, 21 g | [N+](=O)([O-])[O-].[Na+]
reactant | ammonia | N | H3N
reactant | hydrochloric acid | 160 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-m-xylene | ClC=1C=C(C=C(C1)C)C | C8H9Cl
